### PR TITLE
Addition on real numbers

### PR DESCRIPTION
**Pull request by lowasser**
Decided I'm just going to fold it all together.  Depends on #1306.

### CODE REVIEW

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md [hunk 1]
```diff
@@ -63,14 +70,20 @@ module _
...
-      ( λ (p , q) → le-ℚ-Prop q (p +ℚ rational-ℚ⁺ ε⁺) ∧
-        cut-lower-ℝ x p ∧
-        cut-upper-ℝ y q)
+  arithmetically-located-prop-lower-upper-ℝ : Prop (l1 ⊔ l2)
+  arithmetically-located-prop-lower-upper-ℝ =
+    Π-Prop
+      ( ℚ⁺)
+      ( λ ε⁺ →
+        ∃
+          ( ℚ × ℚ)
```
Comment (fredrik-bakke) [inline src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:79]:
```suggestion
        ∃ ( ℚ × ℚ)
```

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md [hunk 2]
```diff
@@ -63,14 +70,20 @@ module _
...
+          ( λ (p , q) → le-ℚ-Prop q (p +ℚ rational-ℚ⁺ ε⁺) ∧
+            cut-lower-ℝ x p ∧
+            cut-upper-ℝ y q))
```
Comment (fredrik-bakke) [inline src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:82]:
```suggestion
          ( λ (p , q) → 
            le-ℚ-Prop q (p +ℚ rational-ℚ⁺ ε⁺) ∧
            cut-lower-ℝ x p ∧
            cut-upper-ℝ y q))
```

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md [hunk 3]
```diff
@@ -118,6 +131,108 @@ module _
...
+        ( p<x ,
+          tr
+            ( is-in-upper-cut-ℝ x)
+            ( ap (p +ℚ_) (left-zero-law-mul-ℚ ε) ∙ right-unit-law-add-ℚ p)
+            ( x<p+0ε)))
+  location-in-arithmetic-sequence-located-ℝ ε⁺@(ε , _) (succ-ℕ n) p p<x x<p+nε =
+    elim-disjunction
+      ( ∃
+        ( ℚ)
+        ( λ q → lower-cut-ℝ x q ∧ upper-cut-ℝ x (q +ℚ (ε +ℚ ε))))
```
Comment (fredrik-bakke) [inline src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:162]:
```suggestion
      ( ∃ ℚ (λ q → lower-cut-ℝ x q ∧ upper-cut-ℝ x (q +ℚ (ε +ℚ ε))))
```

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md [hunk 4]
```diff
@@ -118,6 +131,108 @@ module _
...
 ```
 
+### The cuts of Dedekind real numbers are arithmetically located
+
+```agda
+module _
+  {l : Level} (x : ℝ l)
+  where
+
+  location-in-arithmetic-sequence-located-ℝ :
```
Comment (fredrik-bakke) [inline src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:141]: abstract

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md [hunk 5]
```diff
@@ -118,6 +131,108 @@ module _
...
+          x<r+2ε')
+    where
+      open
+        do-syntax-trunc-Prop
+          (∃
+            ( ℚ × ℚ)
+            ( λ (p , q) →
+              le-ℚ-Prop q (p +ℚ rational-ℚ⁺ ε⁺) ∧
+              lower-cut-ℝ x p ∧
+              upper-cut-ℝ x q))
```
Comment (fredrik-bakke) [inline src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:233]: this type should be given a name in `real-numbers.arithmetically-located-dedekind-cuts` that you can then use here

File: src/real-numbers/difference-real-numbers.lagda.md [hunk 6]
```diff
@@ -0,0 +1,53 @@
...
+_-ℝ_ = diff-ℝ
+```
+
+## Properties
+
+### The inclusion of rational numbers preserves differences
+
+```agda
+abstract
+  diff-real-ℚ : (p q : ℚ) → real-ℚ p -ℝ real-ℚ q ＝ real-ℚ (p -ℚ q)
```
Comment (fredrik-bakke) [inline src/real-numbers/difference-real-numbers.lagda.md:51]:
```suggestion
  diff-real-ℚ : (p q : ℚ) → (real-ℚ p) -ℝ (real-ℚ q) ＝ real-ℚ (p -ℚ q)
```

File: src/real-numbers/inequality-real-numbers.lagda.md [hunk 7]
```diff
@@ -76,7 +86,7 @@ module _
   leq-ℝ' = type-Prop leq-ℝ-Prop'
 
   leq-iff-ℝ' : leq-ℝ x y ↔ leq-ℝ'
```
Comment (fredrik-bakke) [inline src/real-numbers/inequality-real-numbers.lagda.md:88]: fyi you also make changes to this entry in #1385 that will lead to merge conflicts

File: src/real-numbers/inequality-real-numbers.lagda.md [hunk 8]
```diff
@@ -186,6 +196,138 @@ iff-leq-real-ℚ : (x y : ℚ) → leq-ℚ x y ↔ leq-ℝ (real-ℚ x) (real-
...
+```agda
+module _
+  {l1 l2 : Level} (x : ℝ l1) (y : ℝ l2)
+  where
+
+  neg-leq-ℝ : leq-ℝ x y → leq-ℝ (neg-ℝ y) (neg-ℝ x)
+  neg-leq-ℝ x≤y p = forward-implication (leq-iff-ℝ' x y) x≤y (neg-ℚ p)
+```
+
+### `x + y ≤ z` if and only if `x ≤ y - z`
```
Comment (fredrik-bakke) [inline src/real-numbers/inequality-real-numbers.lagda.md:296]:
```suggestion
### `x + y ≤ z` if and only if `x ≤ z - y`
```

File: src/real-numbers/inequality-real-numbers.lagda.md [hunk 9]
```diff
@@ -186,6 +196,138 @@ iff-leq-real-ℚ : (x y : ℚ) → leq-ℚ x y ↔ leq-ℝ (real-ℚ x) (real-
...
+  preserves-leq-sim-ℝ x1≤y1 =
+    preserves-leq-left-sim-ℝ
+      ( y2)
+      ( x1)
+      ( x2)
+      ( x1~x2)
+      ( preserves-leq-right-sim-ℝ x1 y1 y2 y1~y2 x1≤y1)
+```
+
+### Inequality on the real numbers is invariant by translation
```
Comment (fredrik-bakke) [inline src/real-numbers/inequality-real-numbers.lagda.md:232]:
```suggestion
### Inequality on the real numbers is invariant under translation
```

File: src/real-numbers/addition-real-numbers.lagda.md
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:1]: How's the typechecking performance of this file? That's something we should potentially fix before an eventual merge

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 10]
```diff
@@ -0,0 +1,493 @@
...
+open import real-numbers.rational-real-numbers
+open import real-numbers.similarity-real-numbers
+open import real-numbers.upper-dedekind-real-numbers
+```
+
+</details>
+
+## Idea
+
+The sum of two [Dedekind real numbers](real-numbers.dedekind-real-numbers.md) is
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:58]: concept macro sum

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 11]
```diff
@@ -0,0 +1,493 @@
...
+is a Dedekind real number whose lower cut (upper cut) is the the
+[Minkowski sum](group-theory.minkowski-multiplication-commutative-monoids.md) of
+their lower (upper) cuts.
+
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:62]:
```suggestion

## Definitions

```

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 12]
```diff
@@ -0,0 +1,493 @@
...
+            intro-exists (qx , qy) (x<qx , y<qy , refl))
+      where
+        open
+          do-syntax-trunc-Prop
+            (∃
+              ( ℚ × ℚ)
+              ( λ (p , q) →
+                le-ℚ-Prop q (p +ℚ ε) ∧
+                cut-lower-ℝ lower-real-add-ℝ p ∧
+                cut-upper-ℝ upper-real-add-ℝ q))
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:134]: this proposition should be named in `arithmetically-located-dedekind-cuts`

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 13]
```diff
@@ -0,0 +1,493 @@
...
+  eq-eq-lower-real-ℝ
+    ( x +ℝ zero-ℝ)
+    ( x)
+    ( right-unit-law-add-lower-ℝ (lower-real-ℝ x))
+```
+
+### Inverse laws for addition
+
+```agda
+right-inverse-law-add-ℝ : {l : Level} → (x : ℝ l) → sim-ℝ (x +ℝ neg-ℝ x) zero-ℝ
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:214]: `abstract`?

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 14]
```diff
@@ -0,0 +1,493 @@
...
+        ( empty-Prop)
+        ( λ (p , q) (p<x , x<-q , 0=p+q) →
+          is-disjoint-cut-ℝ
+            ( x)
+            ( p)
+            ( p<x ,
+              inv-tr
+                ( is-in-upper-cut-ℝ x)
+                ( unique-left-inv-Group group-add-ℚ p q (inv 0=p+q))
+                ( x<-q))) ,
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:229]: this wouldn't potentially be a useful lemma by itself?

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 15]
```diff
@@ -0,0 +1,493 @@
...
+        ( empty-Prop)
+        ( λ (p , q) (x<p , -q<x , 0=p+q) →
+          is-disjoint-cut-ℝ
+            ( x)
+            ( p)
+            ( inv-tr
+                ( is-in-lower-cut-ℝ x)
+                ( unique-left-inv-Group group-add-ℚ p q (inv (0=p+q)))
+                ( -q<x) ,
+              x<p)))
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:240]: this wouldn't potentially be a useful lemma by itself?

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 16]
```diff
@@ -0,0 +1,493 @@
...
+          is-disjoint-cut-ℝ
+            ( x)
+            ( p)
+            ( p<x ,
+              inv-tr
+                ( is-in-upper-cut-ℝ x)
+                ( unique-left-inv-Group group-add-ℚ p q (inv 0=p+q))
+                ( x<-q))) ,
+      elim-exists
+        ( empty-Prop)
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:231]: This is a complete digression, but I recently experienced that if you find yourself eliminating propositional truncations into the empty type often, that suggests there is a generalization to the double negation modality lurking. That's the basis for many of the additions in #1264. 😄

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 17]
```diff
@@ -0,0 +1,493 @@
...
+          is-disjoint-cut-ℝ
+            ( x)
+            ( p)
+            ( inv-tr
+                ( is-in-lower-cut-ℝ x)
+                ( unique-left-inv-Group group-add-ℚ p q (inv (0=p+q)))
+                ( -q<x) ,
+              x<p)))
+
+left-inverse-law-add-ℝ : {l : Level} (x : ℝ l) → sim-ℝ (neg-ℝ x +ℝ x) zero-ℝ
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:242]: `abstract`

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 18]
```diff
@@ -0,0 +1,493 @@
...
+```
+
+### The Abelian group of real numbers at `lzero` under addition
+
+```agda
+semigroup-add-ℝ-lzero : Semigroup (lsuc lzero)
+semigroup-add-ℝ-lzero =
+  ℝ-Set lzero ,
+  add-ℝ ,
+  associative-add-ℝ
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/real-numbers/addition-real-numbers.lagda.md:467]: this applies to the rest of the definitions below here as well

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 19]
```diff
@@ -0,0 +1,493 @@
...
+          ( px +ℚ py , qx +ℚ qy)
+          ( tr
+            ( le-ℚ (qx +ℚ qy))
+            ( equational-reasoning
+                (px +ℚ εx) +ℚ (py +ℚ εy)
+                ＝ (px +ℚ py) +ℚ (εx +ℚ εy)
+                  by interchange-law-add-add-ℚ px εx py εy
+                ＝ (px +ℚ py) +ℚ ε
+                  by
+                    ap ((px +ℚ py) +ℚ_) (ap rational-ℚ⁺ (eq-add-split-ℚ⁺ ε⁺)))
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:116]: this looks like it can be generalized to some sort of `leq-split-ℚ` lemma for instance

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 20]
```diff
@@ -86,22 +120,23 @@ module _
...
+        ( q , y<q , q<x) ← y<x
+        rec-coproduct
+          ( asymmetric-le-ℚ
+              ( q)
+              ( p)
+              ( le-lower-upper-cut-ℝ x q p q<x x<p))
+          ( not-leq-le-ℚ
+              ( p)
+              ( q)
+              ( le-lower-upper-cut-ℝ y p q p<y y<q))
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:137]:
```suggestion
            ( q)
            ( p)
            ( le-lower-upper-cut-ℝ x q p q<x x<p))
          ( not-leq-le-ℚ
            ( p)
            ( q)
            ( le-lower-upper-cut-ℝ y p q p<y y<q))
```

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 21]
```diff
@@ -62,6 +74,28 @@ is-prop-le-ℝ x y = is-prop-type-Prop (le-ℝ-Prop x y)
...
+  where
+
+  abstract
+    leq-le-ℝ : le-ℝ x y → leq-ℝ x y
+    leq-le-ℝ x<y p p<x =
+      elim-exists
+        ( lower-cut-ℝ y p)
+        ( λ q (x<q , q<y) →
+          backward-implication
+            ( is-rounded-lower-cut-ℝ y p)
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:91]: This would be more idiomatic if you defined `is-in-lower-cut-le-ℝ` to be the backward implication of `is-rounded-lower-cut-ℝ`

Comment (fredrik-bakke) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:91]: the name `is-in-lower-cut-le-ℝ` may be slightly inaccurate, please make appropriate adjustments if needed

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 22]
```diff
@@ -160,14 +197,56 @@ module _
...
+  le-upper-cut-real-ℚ H =
     map-tot-exists
-      ( λ p → map-product (forward-implication (leq-iff-ℝ' x y) x≤y p) id)
+      ( λ p (p<q , p∈ux) → (p∈ux , p<q))
+      ( forward-implication (is-rounded-upper-cut-ℝ x q) H)
+
+  upper-cut-real-le-ℚ : le-ℝ x (real-ℚ q) → is-in-upper-cut-ℝ x q
+  upper-cut-real-le-ℚ H =
+    backward-implication
+      ( is-rounded-upper-cut-ℝ x q)
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:244]: `is-in-lower-cut-le-ℝ`

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 23]
```diff
@@ -274,88 +354,217 @@ module _
...
+        ( q , x<q , q<y) ← x<y
+        ( p , p<q , x<p) ← forward-implication (is-rounded-upper-cut-ℝ x q) x<q
+        ( r , q<r , r<y) ← forward-implication (is-rounded-lower-cut-ℝ y q) q<y
+        intro-exists
+          ( real-ℚ q)
+          ( intro-exists p (x<p , p<q) , intro-exists r (q<r , r<y))
+      where
+        open
+          do-syntax-trunc-Prop
+            ( ∃ (ℝ lzero) (λ z → le-ℝ-Prop x z ∧ le-ℝ-Prop z y))
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:380]: I believe we may have discussed this before (and that there is some issue with universe polymorphism?), but I'll say again that the concept of density should be formalized

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 24]
```diff
@@ -274,88 +354,217 @@ module _
...
+abstract
+  cotransitive-le-ℝ : is-cotransitive-Large-Relation-Prop ℝ le-ℝ-Prop
+  cotransitive-le-ℝ x y z x<y =
+    do
+      ( q , x<q , q<y) ← x<y
+      ( p , p<q , x<p) ← forward-implication (is-rounded-upper-cut-ℝ x q) x<q
+      elim-disjunction
+        ( le-ℝ-Prop x z ∨ le-ℝ-Prop z y)
+        ( λ p<z → inl-disjunction (intro-exists p (x<p , p<z)))
+        ( λ z<q → inr-disjunction (intro-exists q (z<q , q<y)))
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:395]: This could be formalized as the functorial action of disjunction

File: src/real-numbers/addition-real-numbers.lagda.md
Comment (lowasser) [reply src/real-numbers/addition-real-numbers.lagda.md:1]: Less than a second on my machine.  Is there some indication it's an issue?

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 25]
```diff
@@ -274,88 +354,217 @@ module _
...
-  upper-cut-real-le-ℚ H =
-    backward-implication
-      ( is-rounded-upper-cut-ℝ x q)
-      ( map-tot-exists (λ _ (p>x , p<q) → (p<q , p>x)) H)
+    preserves-le-left-sim-ℝ : le-ℝ x z → le-ℝ y z
+    preserves-le-left-sim-ℝ =
+      map-tot-exists
+        ( λ q →
+          map-product
+            ( pr1 (backward-implication (sim-upper-cut-iff-sim-ℝ x y) x~y) q)
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:415]: `backward-implication (sim-upper-cut-iff-sim-ℝ x y)` should be a named entry `sim-sim-upper-cut-ℝ` (please also name the other direction `sim-upper-cut-sim-ℝ`). If the directions don't match up then `sim-upper-cut-iff-sim-ℝ` should be named `sim-iff-sim-upper-cut-ℝ`

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 26]
```diff
@@ -274,88 +354,217 @@ module _
...
+    preserves-le-left-sim-ℝ
+      ( y2)
+      ( x1)
+      ( x2)
+      ( x1~x2)
+      ( preserves-le-right-sim-ℝ x1 y1 y2 y1~y2 x1<y1)
 ```
 
-### Strict inequality on the real numbers is dense
+### Strict inequality on the real numbers is invariant by translation
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:438]:
```suggestion
### Strict inequality on the real numbers is invariant under translation
```

Comment (fredrik-bakke) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:438]: or
```suggestion
### Strict inequality on the real numbers is translation invariant
```

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 27]
```diff
@@ -274,88 +354,217 @@ module _
...
+  pr1 iff-translate-right-le-ℝ = preserves-le-right-add-ℝ z x y
+  pr2 iff-translate-right-le-ℝ = reflects-le-right-add-ℝ z x y
+
+  iff-translate-left-le-ℝ : le-ℝ x y ↔ le-ℝ (z +ℝ x) (z +ℝ y)
+  pr1 iff-translate-left-le-ℝ = preserves-le-left-add-ℝ z x y
+  pr2 iff-translate-left-le-ℝ = reflects-le-left-add-ℝ z x y
 ```
 
-### Strict inequality on the real numbers is cotransitive
+### `x + y < z` if and only if `x < y - z`
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:535]:
```suggestion
### `x + y < z` if and only if `x < z - y`
```

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 28]
```diff
@@ -274,88 +354,217 @@ module _
...
-            ( le-ℝ-Prop x z ∨ le-ℝ-Prop z y)
-            ( λ p<z → inl-disjunction (intro-exists p (x<p , p<z)))
-            ( λ z<q → inr-disjunction (intro-exists q (z<q , q<y)))
-            ( is-located-lower-upper-cut-ℝ z p q p<q))
-        ( forward-implication (is-rounded-upper-cut-ℝ x q) x<q))
+module _
+  {l1 l2 l3 : Level} (x : ℝ l1) (y : ℝ l2) (z : ℝ l3)
+  where
+
+  iff-diff-right-le-ℝ : le-ℝ (x +ℝ y) z ↔ le-ℝ x (z -ℝ y)
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:542]: please record each direction individually as well

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md [hunk 29]
```diff
@@ -109,15 +122,119 @@ module _
...
+              ( equational-reasoning
+                p +ℚ (rational-ℤ (int-ℕ (succ-ℕ n)) *ℚ ε)
+                ＝ p +ℚ (rational-ℤ (succ-ℤ (int-ℕ n)) *ℚ ε)
+                  by ap (λ m → p +ℚ (rational-ℤ m *ℚ ε)) (inv (succ-int-ℕ n))
+                ＝ p +ℚ (succ-ℚ (rational-ℤ (int-ℕ n)) *ℚ ε)
+                  by ap (λ m → p +ℚ (m *ℚ ε)) (inv (succ-rational-ℤ _))
+                ＝ p +ℚ (ε +ℚ (rational-ℤ (int-ℕ n) *ℚ ε))
+                  by ap (p +ℚ_) (mul-left-succ-ℚ _ _)
+                ＝ (p +ℚ ε) +ℚ rational-ℤ (int-ℕ n) *ℚ ε
+                  by inv (associative-add-ℚ _ _ _))
```
[the remark this answers is not in the document]
Comment (lowasser) [reply src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:182]: FWIW: the last time I attempted this PR, `mul-left-succ-ℚ` _was_ the general lemma that was asked to get factored out, and it's getting used here.

This is an example of my struggles with "it takes a whole lot of work to apply the general lemma to the specific case."

I can try to factor out a more specific lemma -- maybe getting from succ-N to succ-Q.

File: src/real-numbers/addition-real-numbers.lagda.md (hunk 16 above)
Comment (fredrik-bakke) [reply src/real-numbers/addition-real-numbers.lagda.md:231]: (I.e. here one could consider a generalization of Dedekind real numbers that uses double negation instead of propositional truncations, but that is far beyond the scope of this PR)

File: src/real-numbers/strict-inequality-real-numbers.lagda.md (hunk 24 above)
Comment (fredrik-bakke) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md:395]: (but that file is not in the library yet)

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md [hunk 30]
```diff
@@ -63,14 +70,20 @@ module _
...
+      ( λ ε⁺ →
+        ∃ ( ℚ × ℚ)
+          ( λ (p , q) → 
+            le-ℚ-Prop q (p +ℚ rational-ℚ⁺ ε⁺) ∧
+            cut-lower-ℝ x p ∧
+            cut-upper-ℝ y q))
+
+  is-arithmetically-located-lower-upper-ℝ : UU (l1 ⊔ l2)
+  is-arithmetically-located-lower-upper-ℝ =
+    type-Prop arithmetically-located-prop-lower-upper-ℝ
```
Comment (fredrik-bakke) [inline src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:86]:
```suggestion
  is-arithmetically-located-prop-lower-upper-ℝ : Prop (l1 ⊔ l2)
  is-arithmetically-located-prop-lower-upper-ℝ =
    Π-Prop
      ( ℚ⁺)
      ( λ ε⁺ →
        ∃ ( ℚ × ℚ)
          ( λ (p , q) → 
            le-ℚ-Prop q (p +ℚ rational-ℚ⁺ ε⁺) ∧
            cut-lower-ℝ x p ∧
            cut-upper-ℝ y q))

  is-arithmetically-located-lower-upper-ℝ : UU (l1 ⊔ l2)
  is-arithmetically-located-lower-upper-ℝ =
    type-Prop is-arithmetically-located-prop-lower-upper-ℝ
```

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md (hunk 29 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:182]: ah, hmm, I see. Yes, please do that

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:182]: Another way to frame this would be to consider the rationals only as an algebra over the natural numbers. Then the translation between natural numbers and rationals would go away, but that would require a lot of new infrastructure.

File: src/real-numbers/addition-real-numbers.lagda.md (hunk 14 above)
Comment (lowasser) [reply src/real-numbers/addition-real-numbers.lagda.md]: I can pull out uniqueness of inverses in the rational numbers, but nothing else here seems reusable or generalizable.

File: src/real-numbers/strict-inequality-real-numbers.lagda.md (hunk 21 above)
Comment (lowasser) [reply src/real-numbers/strict-inequality-real-numbers.lagda.md]: That already exists.  Used.

File: src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md [hunk 31]
```diff
@@ -109,15 +121,118 @@ module _
...
+            x<r+2ε')
+      where
+        open
+          do-syntax-trunc-Prop
+            (∃
+              ( ℚ × ℚ)
+              ( close-bounds-lower-upper-ℝ
+                ( lower-real-ℝ x)
+                ( upper-real-ℝ x)
+                ( ε⁺)))
```
Comment (fredrik-bakke) [inline src/real-numbers/arithmetically-located-dedekind-cuts.lagda.md:233]: use `let open` instead?

File: src/real-numbers/similarity-real-numbers.lagda.md [hunk 32]
```diff
@@ -79,10 +79,15 @@ module _
   opaque
     unfolding sim-ℝ
```
Comment (fredrik-bakke) [inline src/real-numbers/similarity-real-numbers.lagda.md:80]: unfolding is not needed here I think

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 33]
```diff
@@ -86,22 +117,23 @@ module _
...
             ( le-lower-upper-cut-ℝ x q p q<x x<p))
-        ( not-leq-le-ℚ
+          ( not-leq-le-ℚ
             ( p)
             ( q)
             ( le-lower-upper-cut-ℝ y p q p<y y<q))
-        ( decide-le-leq-ℚ p q)
-    where open do-syntax-trunc-Prop empty-Prop
+          ( decide-le-leq-ℚ p q)
+      where open do-syntax-trunc-Prop empty-Prop
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:136]: `let open` syntax :)

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 34]
```diff
@@ -114,16 +146,17 @@ module _
...
+    transitive-le-ℝ : le-ℝ y z → le-ℝ x y → le-ℝ x z
+    transitive-le-ℝ y<z x<y =
+      do
+        ( p , x<p , p<y) ← x<y
+        ( q , y<q , q<z) ← y<z
+        intro-exists
+          ( p)
+          ( x<p ,
+            le-lower-cut-ℝ z p q (le-lower-upper-cut-ℝ y p q p<y y<q) q<z)
+      where open do-syntax-trunc-Prop (le-ℝ-Prop x z)
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:159]: `let open` :)

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 35]
```diff
@@ -178,21 +250,20 @@ module _
...
-      r , r<q , x<r ← forward-implication (is-rounded-upper-cut-ℝ x q) x<q
-      intro-exists (real-ℚ q) (intro-exists r (x<r , r<q))
-    where open do-syntax-trunc-Prop (∃ (ℝ lzero) (le-ℝ-Prop x))
+  abstract
+    exists-lesser-ℝ : exists (ℝ lzero) (λ y → le-ℝ-Prop y x)
+    exists-lesser-ℝ =
+      do
+        ( q , q<x) ← is-inhabited-lower-cut-ℝ x
+        intro-exists (real-ℚ q) (le-real-is-in-lower-cut-ℚ q x q<x)
+      where open do-syntax-trunc-Prop (∃ (ℝ lzero) (λ y → le-ℝ-Prop y x))
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:259]: It's probably best to use `let open` here as well for consistency. By maintaining a consistent choice of syntax, we make it easier for others to get familiar with the coding style

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 36]
```diff
@@ -204,15 +275,16 @@ module _
...
+  abstract
+    neg-le-ℝ : le-ℝ x y → le-ℝ (neg-ℝ y) (neg-ℝ x)
+    neg-le-ℝ x<y =
+      do
+        (p , x<p , p<y) ← x<y
+        intro-exists
+          ( neg-ℚ p)
+          ( inv-tr (is-in-lower-cut-ℝ y) (neg-neg-ℚ p) p<y ,
+            inv-tr (is-in-upper-cut-ℝ x) (neg-neg-ℚ p) x<p)
+      where open do-syntax-trunc-Prop (le-ℝ-Prop (neg-ℝ y) (neg-ℝ x))
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:287]: `let`

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 37]
```diff
@@ -178,21 +250,20 @@ module _
...
+        ( q , q<x) ← is-inhabited-lower-cut-ℝ x
+        intro-exists (real-ℚ q) (le-real-is-in-lower-cut-ℚ q x q<x)
+      where open do-syntax-trunc-Prop (∃ (ℝ lzero) (λ y → le-ℝ-Prop y x))
+
+    exists-greater-ℝ : exists (ℝ lzero) (λ y → le-ℝ-Prop x y)
+    exists-greater-ℝ =
+      do
+        ( q , x<q) ← is-inhabited-upper-cut-ℝ x
+        intro-exists (real-ℚ q) (le-real-is-in-upper-cut-ℚ q x x<q)
+      where open do-syntax-trunc-Prop (∃ (ℝ lzero) (le-ℝ-Prop x))
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:266]: `let`

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 38]
```diff
@@ -238,17 +310,18 @@ module _
...
+          forward-implication (is-rounded-lower-cut-ℝ y p) p<y
         elim-disjunction
           ( lower-cut-ℝ x p)
           ( id)
-          ( λ q∈ux → ex-falso (x≮y (intro-exists q (q∈ux , q∈ly))))
-          ( is-located-lower-upper-cut-ℝ x p q p<q))
-      ( forward-implication (is-rounded-lower-cut-ℝ y p) p∈ly)
+          ( λ x<q → reductio-ad-absurdum (intro-exists q (x<q , q<y)) x≮y)
+          ( is-located-lower-upper-cut-ℝ x p q p<q)
+      where open do-syntax-trunc-Prop (lower-cut-ℝ x p)
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:324]: `let`

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 39]
```diff
@@ -274,88 +347,248 @@ module _
...
+        ( q , x<q , q<y) ← x<y
+        ( p , p<q , x<p) ← forward-implication (is-rounded-upper-cut-ℝ x q) x<q
+        ( r , q<r , r<y) ← forward-implication (is-rounded-lower-cut-ℝ y q) q<y
+        intro-exists
+          ( real-ℚ q)
+          ( intro-exists p (x<p , p<q) , intro-exists r (q<r , r<y))
+      where
+        open
+          do-syntax-trunc-Prop
+            ( ∃ (ℝ lzero) (λ z → le-ℝ-Prop x z ∧ le-ℝ-Prop z y))
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:373]: `let`

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 40]
```diff
@@ -274,88 +347,248 @@ module _
...
+                    ＝ (q +ℚ (p -ℚ q)) +ℚ s
+                      by
+                        ap
+                          ( _+ℚ s)
+                          ( inv (is-identity-right-conjugation-add-ℚ q p))
+                    ＝ q +ℚ ((p -ℚ q) +ℚ s) by associative-add-ℚ _ _ _)))
+      where
+        open
+          do-syntax-trunc-Prop
+            ( ∃ ℚ (λ r → upper-cut-ℝ (x +ℝ z) r ∧ lower-cut-ℝ (y +ℝ z) r))
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:483]: `let`

File: src/real-numbers/strict-inequality-real-numbers.lagda.md [hunk 41]
```diff
@@ -274,88 +347,248 @@ module _
...
+      ( p , p<q , x<p) ← forward-implication (is-rounded-upper-cut-ℝ x q) x<q
+      map-disjunction
+        ( lower-cut-ℝ z p)
+        ( le-ℝ-Prop x z)
+        ( upper-cut-ℝ z q)
+        ( le-ℝ-Prop z y)
+        ( λ p<z → intro-exists p (x<p , p<z))
+        ( λ z<q → intro-exists q (z<q , q<y))
+        ( is-located-lower-upper-cut-ℝ z p q p<q)
+    where open do-syntax-trunc-Prop (le-ℝ-Prop x z ∨ le-ℝ-Prop z y)
```
Comment (fredrik-bakke) [inline src/real-numbers/strict-inequality-real-numbers.lagda.md:393]: `let`

File: src/real-numbers/inequality-real-numbers.lagda.md [hunk 42]
```diff
@@ -186,6 +196,138 @@ iff-leq-real-ℚ : (x y : ℚ) → leq-ℚ x y ↔ leq-ℝ (real-ℚ x) (real-
...
+      ( x)
+      ( cancel-right-add-diff-ℝ x y)
+      ( preserves-leq-right-add-ℝ (neg-ℝ y) (x +ℝ y) z x+y<z)
+  pr2 iff-diff-right-leq-ℝ x<z-y =
+    preserves-leq-right-sim-ℝ
+      ( x +ℝ y)
+      ( (z -ℝ y) +ℝ y)
+      ( z)
+      ( cancel-right-diff-add-ℝ z y)
+      ( preserves-leq-right-add-ℝ y x (z -ℝ y) x<z-y)
```
Comment (fredrik-bakke) [inline src/real-numbers/inequality-real-numbers.lagda.md:317]: Please factor out the components into `leg-transpose-left-add-ℝ` and `leg-transpose-right-diff-ℝ`

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 43]
```diff
@@ -0,0 +1,492 @@
...
+            ( inv p=px+py)
+            ( inv p=qx+qy)
+            ( preserves-le-add-ℚ
+              { px}
+              { qx}
+              { py}
+              { qy}
+              ( le-lower-upper-cut-ℝ x px qx px<x x<qx)
+              ( le-lower-upper-cut-ℝ y py qy py<y y<qy)))
+      where open do-syntax-trunc-Prop empty-Prop
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:99]: `let`

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 44]
```diff
@@ -0,0 +1,492 @@
...
+            intro-exists (qx , qy) (x<qx , y<qy , refl))
+      where
+        open
+          do-syntax-trunc-Prop
+            (∃
+              ( ℚ × ℚ)
+              ( close-bounds-lower-upper-ℝ
+                ( lower-real-add-ℝ)
+                ( upper-real-add-ℝ)
+                ( ε⁺)))
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:122]: `let`

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 45]
```diff
@@ -0,0 +1,492 @@
...
+  ( ℝ-Set lzero ,
+    add-ℝ ,
+    associative-add-ℝ)
+
+monoid-add-ℝ-lzero : Monoid (lsuc lzero)
+monoid-add-ℝ-lzero =
+  semigroup-add-ℝ-lzero ,
+  zero-ℝ ,
+  left-unit-law-add-ℝ ,
+  right-unit-law-add-ℝ
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:473]:
```suggestion
  ( semigroup-add-ℝ-lzero ,
    zero-ℝ ,
    left-unit-law-add-ℝ ,
    right-unit-law-add-ℝ)
```

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 46]
```diff
@@ -0,0 +1,492 @@
...
+
+commutative-monoid-add-ℝ-lzero : Commutative-Monoid (lsuc lzero)
+commutative-monoid-add-ℝ-lzero =
+  monoid-add-ℝ-lzero ,
+  commutative-add-ℝ
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:478]:
```suggestion
  ( monoid-add-ℝ-lzero ,
    commutative-add-ℝ)
```

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 47]
```diff
@@ -0,0 +1,492 @@
...
+
+group-add-ℝ-lzero : Group (lsuc lzero)
+group-add-ℝ-lzero =
+  semigroup-add-ℝ-lzero ,
+  ( zero-ℝ , left-unit-law-add-ℝ , right-unit-law-add-ℝ) ,
+  ( neg-ℝ ,
+    eq-sim-ℝ ∘ left-inverse-law-add-ℝ ,
+    eq-sim-ℝ ∘ right-inverse-law-add-ℝ)
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:486]:
```suggestion
  ( ( semigroup-add-ℝ-lzero) ,
    ( zero-ℝ , left-unit-law-add-ℝ , right-unit-law-add-ℝ) ,
    ( neg-ℝ ,
      eq-sim-ℝ ∘ left-inverse-law-add-ℝ ,
      eq-sim-ℝ ∘ right-inverse-law-add-ℝ))
```

File: src/real-numbers/addition-real-numbers.lagda.md [hunk 48]
```diff
@@ -0,0 +1,492 @@
...
+
+abelian-group-add-ℝ-lzero : Ab (lsuc lzero)
+abelian-group-add-ℝ-lzero =
+  group-add-ℝ-lzero ,
+  commutative-add-ℝ
```
Comment (fredrik-bakke) [inline src/real-numbers/addition-real-numbers.lagda.md:491]:
```suggestion
  ( group-add-ℝ-lzero ,
    commutative-add-ℝ)
```

**Review by fredrik-bakke — APPROVED** [review]
This PR is extremely well written, thank you for this fantastic contribution!

File: src/real-numbers/addition-real-numbers.lagda.md (hunk 12 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/real-numbers/addition-real-numbers.lagda.md]: I don't doubt that the theory is technical and complicated, and I'm already impressed by how structured your code is and your rate of progression, but that still doesn't mean there can't be a better way to structure things. Either way, as my feedback is inactionable as it stands, let's leave it for now. I'll share if I get any ideas.

File: src/real-numbers/similarity-real-numbers.lagda.md (hunk 32 above)
Comment (lowasser) [reply src/real-numbers/similarity-real-numbers.lagda.md:80]: It definitely is, I checked.

Comment (fredrik-bakke) [reply src/real-numbers/similarity-real-numbers.lagda.md:80]: Oh hmm, I must've misunderstood something, sorry about that

**Review by fredrik-bakke — APPROVED** [review]
